US09259426B2
6-Bromo-N4-(2-methoxy-ethyl)-quinazoline-2,4-diamine
The title compound was synthesized by a method analogous to example 23 using 6-Bromo-4-[1,2,4]triazol-1-yl-quinazolin-2-ylamine and 2-methoxyethylamine. The product was characterized as follows: MS (m/z) 297[M+H]+; HPLC Rt=1.05 minutes (Method B).

reactant | 6-Bromo-4-[1,2,4]triazol-1-yl-quinazolin-2-ylamine | BrC=1C=C2C(=NC(=NC2=CC1)N)N1N=CN=C1 | C10H7BrN6
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 6-Bromo-N4-(2-methoxy-ethyl)-quinazoline-2,4-diamine | BrC=1C=C2C(=NC(=NC2=CC1)N)NCCOC | C11H13BrN4O
